US07625880B2
1-Benzyl-4-methyl-[1,4]azaphosphinane 4-oxide was dissolved in ethanol (100 mL). 1 M HCl (100 mL) was added, along with palladium on carbon (10%, 2.6 g). The mixture was hydrogenated on a Parr shaker for 4 hours at 50 psi. The mixture was filtered through Celite and all solvents were removed under reduced pressure. The product was triturated in hot ethanol (50 mL) and cooled, and the solution was diluted with ether (300 mL). The white crystalline solid was filtered, washed with ether (2×50 mL), hexane (2×50 mL), and dried in vacuo. 4-methyl-[1,4]azaphosphinane 4-oxide hydrochloride was obtained as a white crystalline solid (9.46 g, 94%). 1H NMR (400 MHz, DMSO) δ 3.07 (m, 2H); 2.68 (m, 2H); 1.78 (m, 2H); 1.61 (m, 2H), 1.39 (3H, d, JH-C-P=13.6 Hz.); 31P NMR: δ 29 ppm; ESMS (m/z): (M+1)+ found, 134.

reactant | 1-Benzyl-4-methyl-[1,4]azaphosphinane 4-oxide | C(C1=CC=CC=C1)N1CCP(CC1)(C)=O | C12H18NOP
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.6 g | [Pd] | Pd
product | 4-methyl-[1,4]azaphosphinane 4-oxide hydrochloride | Cl.CP1(CCNCC1)=O | InChI=1S/C5H12NOP.ClH/c1-8(7)4-2-6-3-5-8;/h6H,2-5H2,1H3;1H
